US07312236B2
Combine 1-(3-bromo-5-fluoro-phenyl)-4-dimethylamino-cyclohexanol (14.5 g, 45.9 mmol), p-TsOH (21.8 g, 114.6 mmol) and toluene (200 mL) and heat to reflux for 3 hr. Cool to ambient temperature and partition between ethyl acetate (500 mL) and 1M NaOH solution (250 mL). Wash the organic layer with 1M NaOH solution (200 mL) and saturated aqueous NaCl (200 mL), dry over sodium sulfate, filter and concentrate. Purify the residue by chromatography (silica gel, 10% 2M NH3/MeOH in DCM) to obtain (4-(3-bromo-5-fluoro-phenyl)-cyclohex-3-enyl)-dimethyl-amine (10.8 g, 79%): MS (ES) m/z=298 (M−H)−, 300 (M+H)+; 1H NMR (CDCl3): δ 7.25 (d, 1H, J=2 Hz), 7.02 (dd, 1H, J=8 Hz, J=2 Hz), 6.9 (dd, 1H, J=8 Hz, J=2 Hz), 6.04 (m, 1H), 2.38 (m, 4H), 2.27 (s, 6H), 2.09 (m, 2H), 1.48 (m, 1H).

reactant | 1-(3-bromo-5-fluoro-phenyl)-4-dimethylamino-cyclohexanol | 45.9 mmol, 14.5 g | BrC=1C=C(C=C(C1)F)C1(CCC(CC1)N(C)C)O | C14H19BrFNO
reactant | p-TsOH | 114.6 mmol, 21.8 g | CC=1C=CC(=CC1)S(=O)(=O)O | C7H8O3S
solvent | toluene | 200 mL | C1(=CC=CC=C1)C | C7H8
product | (4-(3-bromo-5-fluoro-phenyl)-cyclohex-3-enyl)-dimethyl-amine | 10.8 g, 79% | BrC=1C=C(C=C(C1)F)C1=CCC(CC1)N(C)C | C14H17BrFN
